US06413938B1
B. 4,5,6-Trifluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine
3,4,5-Trifluoro-1,2-phenylenediamine (6.0 g, 31.2 mmol), isopropyl isothiocyanate (3.6 g, 35.6 mmol), 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (17.0 g, 40.1 mmol) and pyridine (225 mL) were used according to general procedure I. The title compound was recrystallized from 1,4-dioxane to provide a white solid (4.07 g, 57%); m.p. 182-184° C.; 1H NMR (DMSO-d6) δ: 10.97 (br s, 1H, NH), 7.01 (m, 1H, Ar—H), 6.80 (br s, 1H, NH), 3.91 (m, 1H, CH), 1.20 (d, J=6.4 Hz, 6H, overlapping CH3).

reactant | 3,4,5-Trifluoro-1,2-phenylenediamine | 31.2 mmol, 6.0 g | FC=1C(=C(C=C(C1F)F)N)N | C6H5F3N2
reactant | isopropyl isothiocyanate | 35.6 mmol, 3.6 g | C(C)(C)N=C=S | C4H7NS
reactant | 1-cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 40.1 mmol, 17.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 225 mL | N1=CC=CC=C1 | C5H5N
product | 4,5,6-Trifluoro-N-(1-methylethyl)-1H-benzimidazol-2-amine | 4.07 g, 57% | FC1=C(C(=CC=2NC(=NC21)NC(C)C)F)F | C10H10F3N3
